US04584317
Preparation of 2-Chlorobenzamidoxime
A mixture of 32 g (0.46 moles) hydroxylamine hydrochloride and 49 g (0.46 moles) sodium carbonate in ethanol (about 200 ml) was stirred at room temperature for several minutes; then, 52.4 g (0.381 moles) chlorobenzonitrile was added slowly. The reaction mixture was heated to reflux and allowed to reflux about 6 hours. The reaction mixture was cooled at room temperature and suction-filtered. The solids were washed with acetone. The acetone washings were combined with the filtrate; the combined filtrate-washings were stripped. Acetone (about 200 ml) was added to the residue; the resulting mixture was allowed to sit overnight at room temperature. The mixture was filtered. The filtrate was stripped to give the crude product which was washed with hexane and ethyl ether, suction-filtered, and then air-dried to give the above-identified product as an off-white solid.

reactant | hydroxylamine hydrochloride | 0.46 moles, 32 g | Cl.NO
reactant | sodium carbonate | 0.46 moles, 49 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | chlorobenzonitrile | 0.381 moles, 52.4 g | ClC1=C(C#N)C=CC=C1 | C7H4ClN
solvent | ethanol | about 200 ml | C(C)O | C2H6O
product | 2-Chlorobenzamidoxime | ClC1=C(C(N)=NO)C=CC=C1 | C7H7ClN2O
